US07091237B2
4-[4-(trifluoromethyl)phenyl]thiophene-2-carbaldehyde
To a solution of 3-bromothiophene-2-carboxaldehyde (2.0 g) and 3-trifluoromethylbenzene boronic acid (2.19 g) in ethylene glycol dimethyl ether (100 ml) was added sodium carbonate (2.9 g), tetrakis(triphenylphosphine) palladium (0) (0.12 g) and water (50 ml). The mixture was heated to 90° C. under nitrogen. After 18 hours the reaction was allowed to cool and was concentrated. The residue was partitioned between water and ethyl acetate; the organic solution was taken and was washed with brine and then dried (MgSO4) and concentrated. The crude material was purified by SPE (Si); the product eluted with neat chloroform to furnish the title compound as a yellow solid.

reactant | 3-bromothiophene-2-carboxaldehyde | 2.0 g | BrC1=C(SC=C1)C=O | C5H3BrOS
reactant | 3-trifluoromethylbenzene boronic acid | 2.19 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethylene glycol dimethyl ether | 100 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.12 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[4-(trifluoromethyl)phenyl]thiophene-2-carbaldehyde | FC(C1=CC=C(C=C1)C=1C=C(SC1)C=O)(F)F | C12H7F3OS
